US07612055B2
(2R,4S)-N-Butyl-4-((3S,6S,8R)-3,8-dimethyl-1,1,4-trioxo-1lambda*6*-thia-5-aza-cyclohexadec-6-yl)-4-hydroxy-2-methyl-butyramide
A solution of 74 mg (0.15 mmol) (2R,4S)-N-butyl-4-(-(3S,6S,8R)-3,8-dimethyl-1,1,4-trioxo-1lambda*6*-thia-5-aza-cyclohexadec-11-en-6-yl)-4-hydroxy-2-methyl-butyramide in 5 ml MeOH is stirred in the presence of 20 mg 10% Pd—C under a hydrogen atmosphere for 1 h. The mixture is filtered over a pad of celite and the solvent evaporated. The residue is crystallized from toluene and the title compound is isolated as a white powder.

reactant | (2R,4S)-N-butyl-4-(-(3S,6S,8R)-3,8-dimethyl-1,1,4-trioxo-1lambda*6*-thia-5-aza-cyclohexadec-11-en-6-yl)-4-hydroxy-2-methyl-butyramide | 0.15 mmol, 74 mg | C(CCC)NC([C@@H](C[C@H](O)[C@H]1NC([C@@H](CS(CCCCC=CCC[C@H](C1)C)(=O)=O)C)=O)C)=O | C25H46N2O5S
solvent | MeOH | 5 ml | CO | CH4O
catalyst | Pd—C | 20 mg | [Pd] | Pd
product | (2R,4S)-N-Butyl-4-((3S,6S,8R)-3,8-dimethyl-1,1,4-trioxo-1lambda*6*-thia-5-aza-cyclohexadec-6-yl)-4-hydroxy-2-methyl-butyramide | C(CCC)NC([C@@H](C[C@H](O)[C@H]1NC([C@@H](CS(CCCCCCCC[C@H](C1)C)(=O)=O)C)=O)C)=O | C25H48N2O5S
